US08975316B2
Preparation of 2-amino-1,3,4-thiadiazol-5-yl disulfide
A solution prepared from 10.0 g 2-amino-1,3,4-thiadiazole-5-thiol, 81 g ethanol and 7.78 g 40% aqueous NaOH was mixed with a solution of 9.48 g iodine in 75 g of ethanol. The resulting mixture was filtered, and the collected product was washed with ethanol and dried under vacuum at 70° C.

reactant | 2-amino-1,3,4-thiadiazole-5-thiol | 10.0 g | NC=1SC(=NN1)S | C2H3N3S2
reactant | NaOH | 7.78 g | [OH-].[Na+]
reactant | iodine | 9.48 g | II | I2
solvent | ethanol | 75 g | C(C)O | C2H6O
solvent | ethanol | 81 g | C(C)O | C2H6O
product | 2-amino-1,3,4-thiadiazol-5-yl disulfide | NC=1SC(=NN1)SSC1=NN=C(S1)N | C4H4N6S4
